************************************************************************
* auCdl Netlist:
* 
* Library Name:  sar_adc
* Top Cell Name: dac_real_res
* View Name:     schematic
* Netlisted on:  Apr 25 16:19:04 2016
************************************************************************

.INCLUDE  /projects/nanos/design_kit/TSMC90nmLPRF_616OA/Calibre/lvs/source_added
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: tsmcN90rf
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv G Gb IN OUT P Pb
*.PININFO G:I Gb:I IN:I P:I Pb:I OUT:O
MNM1 OUT IN G Gb nch l=nl w=nw m=1*nf
MPM1 OUT IN P Pb pch l=pl w=pw m=1*pf
.ENDS

************************************************************************
* Library Name: sar_adc
* Cell Name:    ladder_R
* View Name:    schematic
************************************************************************

.SUBCKT ladder_R Ra Rb
*.PININFO Ra:B Rb:B
XR1 net07 net8 rppolywo l=85.34u w=500n m=1
XR46 net05 Rb rppolywo l=85.34u w=500n m=1
XR0 net05 net8 rppolywo l=85.34u w=500n m=1
XR2 net07 Ra rppolywo l=85.34u w=500n m=1
.ENDS

************************************************************************
* Library Name: sar_adc
* Cell Name:    ladder_2R
* View Name:    schematic
************************************************************************

.SUBCKT ladder_2R Ra Rb
*.PININFO Ra:B Rb:B
XI2 Ra net5 / ladder_R
XI3 net5 Rb / ladder_R
.ENDS

************************************************************************
* Library Name: sar_adc
* Cell Name:    dac_real_res
* View Name:    schematic
************************************************************************

.SUBCKT dac_real_res B<7> B<6> B<5> B<4> B<3> B<2> B<1> B<0> GND VOUT VREF
*.PININFO B<7>:I B<6>:I B<5>:I B<4>:I B<3>:I B<2>:I B<1>:I B<0>:I VOUT:O GND:B 
*.PININFO VREF:B
XI17 GND GND net072 net022 VREF VREF / inv pf=1 pw=2.5u pl=100n nf=1 nw=2.5u 
+ nl=100n
XI16 GND GND B<7> net072 VREF VREF / inv pf=1 pw=200n pl=100n nf=1 nw=200n 
+ nl=100n
XI15 GND GND B<6> net027 VREF VREF / inv pf=1 pw=200n pl=100n nf=1 nw=200n 
+ nl=100n
XI14 GND GND net027 net035 VREF VREF / inv pf=1 pw=2.5u pl=100n nf=1 nw=2.5u 
+ nl=100n
XI13 GND GND net028 net046 VREF VREF / inv pf=1 pw=2.5u pl=100n nf=1 nw=2.5u 
+ nl=100n
XI12 GND GND B<5> net028 VREF VREF / inv pf=1 pw=200n pl=100n nf=1 nw=200n 
+ nl=100n
XI11 GND GND B<4> net029 VREF VREF / inv pf=1 pw=200n pl=100n nf=1 nw=200n 
+ nl=100n
XI10 GND GND net029 net038 VREF VREF / inv pf=1 pw=2.5u pl=100n nf=1 nw=2.5u 
+ nl=100n
XI9 GND GND net030 net037 VREF VREF / inv pf=1 pw=2.5u pl=100n nf=1 nw=2.5u 
+ nl=100n
XI2 GND GND B<0> net016 VREF VREF / inv pf=1 pw=200n pl=100n nf=1 nw=200n 
+ nl=100n
XI3 GND GND net016 net015 VREF VREF / inv pf=1 pw=2.5u pl=100n nf=1 nw=2.5u 
+ nl=100n
XI4 GND GND net032 net068 VREF VREF / inv pf=1 pw=2.5u pl=100n nf=1 nw=2.5u 
+ nl=100n
XI5 GND GND B<1> net032 VREF VREF / inv pf=1 pw=200n pl=100n nf=1 nw=200n 
+ nl=100n
XI6 GND GND net031 net063 VREF VREF / inv pf=1 pw=2.5u pl=100n nf=1 nw=2.5u 
+ nl=100n
XI7 GND GND B<2> net031 VREF VREF / inv pf=1 pw=200n pl=100n nf=1 nw=200n 
+ nl=100n
XI8 GND GND B<3> net030 VREF VREF / inv pf=1 pw=200n pl=100n nf=1 nw=200n 
+ nl=100n
XI51 net015 net9 / ladder_2R
XI50 net068 net10 / ladder_2R
XI49 net063 net11 / ladder_2R
XI48 net037 net12 / ladder_2R
XI47 net038 net13 / ladder_2R
XI46 net046 net14 / ladder_2R
XI45 net035 net15 / ladder_2R
XI52 GND net9 / ladder_2R
XI44 net022 VOUT / ladder_2R
XI36 net9 net10 / ladder_R
XI37 net10 net11 / ladder_R
XI39 net12 net13 / ladder_R
XI40 net13 net14 / ladder_R
XI41 net14 net15 / ladder_R
XI42 net15 VOUT / ladder_R
XI38 net11 net12 / ladder_R
.ENDS

